**************************************************
* Manufacturer:           Würth Elektronik
* Kinds:                  Flexible Transformer for DC/DC Converter
* Matchcode:              WE-FLEX+
* Library Type:           LTspice
* Version:                rev23a
* Created/modified by:    Toby    
* Date and Time:          2023-07-26
* Team:                   eiSos EDA Service  
* Contact:                libraries@we-online.com
**************************************************
* Copyright(C) 2023 Würth Elektronik eiSos GmbH & Co. KG
* All Rights Reserved.
**************************************************
* Disclaimer: While Würth Elektronik eiSos has made every reasonable effort to ensure the accuracy
* of the simulation models provided, Würth Elektronik eiSos does not guarantee the exemption of error on
* the simulation models, nor does Würth Elektronik eiSos guarantee that the simulation model is current.
* Würth Elektronik eiSos reserves the right to make any adjustments at any time without notice.
* Würth Elektronik eiSos expressly disclaims all implied warranties regarding this simulation model.
**************************************************
************ WE-FLEX+-ETD29 ****************
.Subckt WE-FLEX+_ETD29_749197101 S1 F1 S2 F2 S3 F3 S4 F4 S5 F5 S6 F6
X1 S1 F1 S2 F2 S3 F3 S4 F4 S5 F5 S6 F6 ModelWinds params:
+ temp=temp
+ A=71u 
+ Lm=70.4m 
+ Hc= tbl(temp,25,14,100,9)
+ Bs= tbl(temp,25,510m,100,390m)
+ Br= tbl(temp,25,100m,100,55m)
+ Lg= {4005/100000000}
+ Rbase = 0.045*(1+(0.00393*(temp - 25)))
+ Llkgbase = 0.32u
+ Trn = 11
.ends WE-FLEX+_ETD29_749197101

.Subckt WE-FLEX+_ETD29_749197111 S1 F1 S2 F2 S3 F3 S4 F4 S5 F5 S6 F6
X1 S1 F1 S2 F2 S3 F3 S4 F4 S5 F5 S6 F6 ModelWinds params:
+ temp=temp
+ A=71u 
+ Lm=70.4m 
+ Hc= tbl(temp,25,14,100,9)
+ Bs= tbl(temp,25,510m,100,390m)
+ Br= tbl(temp,25,100m,100,55m)
+ Lg= {12829/100000000}
+ Rbase = 0.045*(1+(0.00393*(temp - 25)))
+ Llkgbase = 0.32u
+ Trn = 11
.ends WE-FLEX+_ETD29_749197111

.Subckt WE-FLEX+_ETD29_749197121 S1 F1 S2 F2 S3 F3 S4 F4 S5 F5 S6 F6
X1 S1 F1 S2 F2 S3 F3 S4 F4 S5 F5 S6 F6 ModelWinds params:
+ temp=temp
+ A=71u 
+ Lm=70.4m 
+ Hc= tbl(temp,25,14,100,9)
+ Bs= tbl(temp,25,510m,100,390m)
+ Br= tbl(temp,25,100m,100,55m)
+ Lg= {21777/100000000}
+ Rbase = 0.045*(1+(0.00393*(temp - 25)))
+ Llkgbase = 0.32u
+ Trn = 11
.ends WE-FLEX+_ETD29_749197121

.Subckt WE-FLEX+_ETD29_749197131 S1 F1 S2 F2 S3 F3 S4 F4 S5 F5 S6 F6
X1 S1 F1 S2 F2 S3 F3 S4 F4 S5 F5 S6 F6 ModelWinds params:
+ temp=temp
+ A=71u 
+ Lm=70.4m 
+ Hc= tbl(temp,25,14,100,9)
+ Bs= tbl(temp,25,510m,100,390m)
+ Br= tbl(temp,25,100m,100,55m)
+ Lg= {42889/100000000}
+ Rbase = 0.045*(1+(0.00393*(temp - 25)))
+ Llkgbase = 0.32u
+ Trn = 11
.ends WE-FLEX+_ETD29_749197131

.Subckt WE-FLEX+_ETD29_749197141 S1 F1 S2 F2 S3 F3 S4 F4 S5 F5 S6 F6
X1 S1 F1 S2 F2 S3 F3 S4 F4 S5 F5 S6 F6 ModelWinds params:
+ temp=temp
+ A=71u 
+ Lm=70.4m 
+ Hc= tbl(temp,25,14,100,9)
+ Bs= tbl(temp,25,510m,100,390m)
+ Br= tbl(temp,25,100m,100,55m)
+ Lg= {71998/100000000}
+ Rbase = 0.045*(1+(0.00393*(temp - 25)))
+ Llkgbase = 0.32u
+ Trn = 11
.ends WE-FLEX+_ETD29_749197141


************ WE-FLEX+-ETD34 ****************
.Subckt WE-FLEX+_ETD34_749197201 S1 F1 S2 F2 S3 F3 S4 F4 S5 F5 S6 F6
X1 S1 F1 S2 F2 S3 F3 S4 F4 S5 F5 S6 F6 ModelWinds params:
+ temp=temp
+ A=91.6u 
+ Lm=78.6m 
+ Hc= tbl(temp,25,14,100,9)
+ Bs= tbl(temp,25,510m,100,390m)
+ Br= tbl(temp,25,100m,100,55m)
+ Lg= {2711/100000000}
+ Rbase = 0.051*(1+(0.00393*(temp - 25)))
+ Llkgbase = 0.32u
+ Trn = 12
.ends WE-FLEX+_ETD34_749197201

.Subckt WE-FLEX+_ETD34_749197211 S1 F1 S2 F2 S3 F3 S4 F4 S5 F5 S6 F6
X1 S1 F1 S2 F2 S3 F3 S4 F4 S5 F5 S6 F6 ModelWinds params:
+ temp=temp
+ A=91.6u 
+ Lm=78.6m 
+ Hc= tbl(temp,25,14,100,9)
+ Bs= tbl(temp,25,510m,100,390m)
+ Br= tbl(temp,25,100m,100,55m)
+ Lg= {12844/100000000}
+ Rbase = 0.051*(1+(0.00393*(temp - 25)))
+ Llkgbase = 0.32u
+ Trn = 12
.ends WE-FLEX+_ETD34_749197211

.Subckt WE-FLEX+_ETD34_749197221 PR1 PR2 PS1 PS2 S1 F1 S2 F2 S3 F3 S4 F4 S5 F5 S6 F6
X1 S1 F1 S2 F2 S3 F3 S4 F4 S5 F5 S6 F6 ModelWinds params:
+ temp=temp
+ A=91.6u 
+ Lm=78.6m 
+ Hc= tbl(temp,25,14,100,9)
+ Bs= tbl(temp,25,510m,100,390m)
+ Br= tbl(temp,25,100m,100,55m)
+ Lg= {22165/100000000}
+ Rbase = 0.051*(1+(0.00393*(temp - 25)))
+ Llkgbase = 0.32u
+ Trn = 12
.ends WE-FLEX+_ETD34_749197221

.Subckt WE-FLEX+_ETD34_749197231 S1 F1 S2 F2 S3 F3 S4 F4 S5 F5 S6 F6
X1 S1 F1 S2 F2 S3 F3 S4 F4 S5 F5 S6 F6 ModelWinds params:
+ temp=temp
+ A=91.6u 
+ Lm=78.6m 
+ Hc= tbl(temp,25,14,100,9)
+ Bs= tbl(temp,25,510m,100,390m)
+ Br= tbl(temp,25,100m,100,55m)
+ Lg= {44196/100000000}
+ Rbase = 0.051*(1+(0.00393*(temp - 25)))
+ Llkgbase = 0.32u
+ Trn = 12
.ends WE-FLEX+_ETD34_749197231

.Subckt WE-FLEX+_ETD34_749197241 S1 F1 S2 F2 S3 F3 S4 F4 S5 F5 S6 F6
X1 S1 F1 S2 F2 S3 F3 S4 F4 S5 F5 S6 F6 ModelWinds params:
+ temp=temp
+ A=91.6u 
+ Lm=78.6m 
+ Hc= tbl(temp,25,14,100,9)
+ Bs= tbl(temp,25,510m,100,390m)
+ Br= tbl(temp,25,100m,100,55m)
+ Lg= {73624/100000000}
+ Rbase = 0.051*(1+(0.00393*(temp - 25)))
+ Llkgbase = 0.32u
+ Trn = 12
.ends WE-FLEX+_ETD34_749197241

************ WE-FLEX+-ETD39 ****************
.Subckt WE-FLEX+_ETD39_749197301 S1 F1 S2 F2 S3 F3 S4 F4 S5 F5 S6 F6
X1 S1 F1 S2 F2 S3 F3 S4 F4 S5 F5 S6 F6 ModelWinds params:
+ temp=temp
+ A=123u 
+ Lm=92.2m 
+ Hc= tbl(temp,25,14,100,9)
+ Bs= tbl(temp,25,510m,100,390m)
+ Br= tbl(temp,25,100m,100,55m)
+ Lg= {3710/100000000}
+ Rbase = 0.034*(1+(0.00393*(temp - 25)))
+ Llkgbase = 0.35u
+ Trn = 11
.ends WE-FLEX+_ETD39_749197301

.Subckt WE-FLEX+_ETD39_749197311 S1 F1 S2 F2 S3 F3 S4 F4 S5 F5 S6 F6
X1 S1 F1 S2 F2 S3 F3 S4 F4 S5 F5 S6 F6 ModelWinds params:
+ temp=temp
+ A=123u 
+ Lm=92.2m 
+ Hc= tbl(temp,25,14,100,9)
+ Bs= tbl(temp,25,510m,100,390m)
+ Br= tbl(temp,25,100m,100,55m)
+ Lg= {12538/100000000}
+ Rbase = 0.034*(1+(0.00393*(temp - 25)))
+ Llkgbase = 0.35u
+ Trn = 11
.ends WE-FLEX+_ETD39_749197311

.Subckt WE-FLEX+_ETD39_749197321 S1 F1 S2 F2 S3 F3 S4 F4 S5 F5 S6 F6
X1 S1 F1 S2 F2 S3 F3 S4 F4 S5 F5 S6 F6 ModelWinds params:
+ temp=temp
+ A=123u 
+ Lm=92.2m 
+ Hc= tbl(temp,25,14,100,9)
+ Bs= tbl(temp,25,510m,100,390m)
+ Br= tbl(temp,25,100m,100,55m)
+ Lg= {22178/100000000}
+ Rbase = 0.034*(1+(0.00393*(temp - 25)))
+ Llkgbase = 0.35u
+ Trn = 11
.ends WE-FLEX+_ETD39_749197321

.Subckt WE-FLEX+_ETD39_749197331 S1 F1 S2 F2 S3 F3 S4 F4 S5 F5 S6 F6
X1 S1 F1 S2 F2 S3 F3 S4 F4 S5 F5 S6 F6 ModelWinds params:
+ temp=temp
+ A=123u 
+ Lm=92.2m 
+ Hc= tbl(temp,25,14,100,9)
+ Bs= tbl(temp,25,510m,100,390m)
+ Br= tbl(temp,25,100m,100,55m)
+ Lg= {45451/100000000}
+ Rbase = 0.034*(1+(0.00393*(temp - 25)))
+ Llkgbase = 0.35u
+ Trn = 11
.ends WE-FLEX+_ETD39_749197331

.Subckt WE-FLEX+_ETD39_749197341 S1 F1 S2 F2 S3 F3 S4 F4 S5 F5 S6 F6
X1 S1 F1 S2 F2 S3 F3 S4 F4 S5 F5 S6 F6 ModelWinds params:
+ temp=temp
+ A=123u 
+ Lm=92.2m 
+ Hc= tbl(temp,25,14,100,9)
+ Bs= tbl(temp,25,510m,100,390m)
+ Br= tbl(temp,25,100m,100,55m)
+ Lg= {76878/100000000}
+ Rbase = 0.034*(1+(0.00393*(temp - 25)))
+ Llkgbase = 0.35u
+ Trn = 11
.ends WE-FLEX+_ETD39_749197341

********************************************

.Subckt ModelWinds S1 F1 S2 F2 S3 F3 S4 F4 S5 F5 S6 F6 params:
+ temp=temp
+ A=1
+ Lm=1 
+ Hc=1
+ Bs=1
+ Br=0.5
+ Lg=1
+ Rbase=1
+ Llkgbase=1
+ Trn=1
**
Lp N01 N02a Hc={Hc} Bs={Bs} Br={Br} A={A} Lm={Lm} Lg={Lg} N={Trn}
Rp N02a N02 0.00001
Rgc N01 0 20meg
**
Lk1 N13 S1 {Llkgbase}
Rp1 S1 F1 1meg
Rs1 F1 N12 {Rbase}
Cp1 S1 F1 10p
G11 0 N11 N01 N02 1
G12 0 N11 N13 N12 1
R1 N11 0 1Meg
G13 N12 N13 N11 0 1
G14 N02 N01 N11 0 1
Rg1 S1 0 20meg
**
Lk2 N23 S2 {Llkgbase}
Rp2 S2 F2 1meg
Rs2 F2 N22 {Rbase}
Cp2 S2 F2 10p
G21 0 N21 N01 N02 1
G22 0 N21 N23 N22 1
R2 N21 0 1Meg
G23 N22 N23 N21 0 1
G24 N02 N01 N21 0 1
Rg2 S2 0 20meg
**
Lk3 N33 S3 {Llkgbase}
Rp3 S3 F3 1meg
Rs3 F3 N32 {Rbase}
Cp3 S3 F3 10p
G31 0 N31 N01 N02 1
G32 0 N31 N33 N32 1
R3 N31 0 1Meg
G33 N32 N33 N31 0 1
G34 N02 N01 N31 0 1
Rg3 S3 0 20meg
**
Lk4 N43 S4 {Llkgbase}
Rp4 S4 F4 1meg
Rs4 F4 N42 {Rbase}
Cp4 S4 F4 10p
G41 0 N41 N01 N02 1
G42 0 N41 N43 N42 1
R4 N41 0 1Meg
G43 N42 N43 N41 0 1
G44 N02 N01 N41 0 1
Rg4 S4 0 20meg
**
Lk5 N53 S5 {Llkgbase}
Rp5 S5 F5 1meg
Rs5 F5 N52 {Rbase}
Cp5 S5 F5 10p
G51 0 N51 N01 N02 1
G52 0 N51 N53 N52 1
R5 N51 0 1Meg
G53 N52 N53 N51 0 1
G54 N02 N01 N51 0 1
Rg5 S5 0 20meg
**
Lk6 N63 S6 {Llkgbase}
Rp6 S6 F6 1meg
Rs6 F6 N62 {Rbase}
Cp6 S6 F6 10p
G61 0 N61 N01 N02 1
G62 0 N61 N63 N62 1
R6 N61 0 1Meg
G63 N62 N63 N61 0 1
G64 N02 N01 N61 0 1
Rg6 S6 0 20meg
**
.ends ModelWinds